US07186797B2
Step 7: 3-methoxy-2,4,6-triiodobenzoic acid
In a 250 mL round-bottom flask equipped with a condenser, methyl 3-methoxy-2,4,6-triiodobenzoate (11.07 g) was dissolved in a 3:1 mixture of dioxane/ MeOH (88 mL). Lithium hydroxide (1.71 g) dissolved in 22 mL H2O was added and the reaction mixture was stirred for 72 h at 60° C. Dioxane and methanol were evaporated and the residue was diluted with 100 mL H2O. The aqueous solution was filtered and the filtrate was extracted with Et2O (2×100 mL). The ether layers were combined and dried over MgSO4. Evaporation of solvent gave 7.64 g of un-reacted starting material (69%). The aqueous layer was acidified to pH 2 with 2N HCl and was extracted with ethyl acetate (3×100 mL). The combined organic layers were dried over MgSO4. Evaporation of solvent gave the desired acid. Yield 3.14 g (29%).

reactant | methyl 3-methoxy-2,4,6-triiodobenzoate | 11.07 g | COC=1C(=C(C(=O)OC)C(=CC1I)I)I | C9H7I3O3
reactant | Lithium hydroxide | 1.71 g | [OH-].[Li+]
reactant | HCl | 2N | Cl | ClH
solvent | dioxane MeOH | 88 mL | O1CCOCC1.CO
solvent | H2O | 22 mL | O | H2O
product | 3-methoxy-2,4,6-triiodobenzoic acid | COC=1C(=C(C(=O)O)C(=CC1I)I)I | C8H5I3O3
